US06316482B1
The mixture of benzyl 1-(4-toluenesulfonyl)indole-4-carboxylate (550 mg) and 10% palladium on charcoal (200 mg) in methanol (20 ml) and water (2 ml) was hydrogenated at ambient temperature (an initial hydrogen pressure was set to 3.5 atm.). The theoretical amount of hydrogen was absorbed in 6 hours. The resulting mixture was filtered through a bed of celite and the filtrate was evaporated in vacuo. The residue was diluted with chloroform and the solution was dried over magnesium sulfate. Filtering and removal of solvents afforded a crude product. The crude product was triturated with diethyl ether-n-hexane (1:3) to give 1-(4-toluenesulfonyl)indole-4-carboxylic acid (330 mg) as a brown powder.

reactant | benzyl 1-(4-toluenesulfonyl)indole-4-carboxylate | 550 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)C | C23H19NO4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 1-(4-toluenesulfonyl)indole-4-carboxylic acid | 330 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C(=O)O)C | C16H13NO4S
